.SubCkt GRJ033R61A105ME11 _net1 _net2
.param K01=7.5412e-07
.param M01=5.0000e+07
.param L02=1.5225e-10
.param M03=3.9799e-02
.param K04=3.3358e-05
.param M04=6.5499e+01
.param K05=5.9152e-05
.param M05=3.9309e+00
.param K06=6.4228e-05
.param M06=6.1704e-01
.param K07=6.6886e-05
.param M07=1.1343e-01
.param K08=4.8145e-05
.param M08=2.7077e-02
.param K09=3.2928e-05
.param M09=6.9614e-03
.param L10=1.5985e-11
.param M10=1.2556e-01
.param L11=3.0535e-11
.param M11=5.7529e-02
.param L12=1.1467e-10
.param M12=2.6842e-02
.param K13=3.7459e-06
.param L13=1.1851e-11
.param M13=2.7909e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net2 'K13'
L13 _net1213 _net2 'L13'
R13 _net1213 _net2 'M13'
.ends 

.SubCkt GRJ033R60J105ME11 _net1 _net2
.param K01=7.5412e-07
.param M01=5.0000e+07
.param L02=1.5225e-10
.param M03=3.9799e-02
.param K04=3.3358e-05
.param M04=6.5499e+01
.param K05=5.9152e-05
.param M05=3.9309e+00
.param K06=6.4228e-05
.param M06=6.1704e-01
.param K07=6.6886e-05
.param M07=1.1343e-01
.param K08=4.8145e-05
.param M08=2.7077e-02
.param K09=3.2928e-05
.param M09=6.9614e-03
.param L10=1.5985e-11
.param M10=1.2556e-01
.param L11=3.0535e-11
.param M11=5.7529e-02
.param L12=1.1467e-10
.param M12=2.6842e-02
.param K13=3.7459e-06
.param L13=1.1851e-11
.param M13=2.7909e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net2 'K13'
L13 _net1213 _net2 'L13'
R13 _net1213 _net2 'M13'
.ends 
